data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_64039_0,[C:1](/[C:4](=[C:2](\[N:3]([H:7])[H:8])[N:5]=[O:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1([H:9])[C:2]([N:3]([H:7])[H:8])=[N:5][O:6]1)([H:10])([H:11])[H:12],38.04908999999256
MR_98380_1,[C:1]([C:3]([C:2](=[O:4])[H:8])(/[N:5]=[N:6]/[H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[C:2](/[O:4]/[N:5]=[N:6]\[H:7])[H:8])[H:9])([H:10])([H:11])[H:12],49.05983250005079
MR_688284_0,[C:1]1([C:4]([H:19])([H:20])[H:21])([H:11])[C:2]([H:14])([H:15])/[C:6](=[N:8]\[H:12])[C:7]([N:5]([C:3]([H:16])([H:17])[H:18])[H:10])([H:13])[O:9]1>>[C:1]([C:2](/[C:6]([C:7](=[O:9])[H:13])=[N:8]\[H:12])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[H:10])[H:11],64.34196749995422
MR_689251_1,[N:1](/[C:2]([N:3]([H:11])[H:12])=[C:6](/[N:4]([H:13])[H:14])[H:16])(/[C:5](=[N:8]\[O:7][H:9])[H:15])[H:10]>>[N:1](=[C:2](\[N:3]([H:11])[H:12])[C:6]([N:4]([H:13])[H:14])(/[C:5](=[N:8]/[O:7][H:9])[H:15])[H:16])\[H:10],65.32965249999307
MR_503984_1,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[H:11])(/[C:6](=[C:4](\[N:5]([H:13])[H:14])[O:8][H:10])[H:15])([O:7][H:9])[H:12]>>[C:1](=[C:6](\[C:4]([N:3]([C:2]([H:16])([H:17])[H:18])[H:11])([N:5]([H:13])[H:14])[O:8][H:10])[H:15])(\[O:7][H:9])[H:12],62.46950749997339
MR_355902_1,[C:1](/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[N:7]([H:9])[H:10])[C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:6]([C:3]([H:17])([H:18])[H:19])[C:8]([H:20])([H:21])[C@:5]1([C:2]([H:14])([H:15])[H:16])[N:7]([H:9])[H:10])([H:11])([H:12])[H:13],35.18957249997129
MR_65100_0,[C:1]([N:2]([N:3]([H:6])[H:7])[C:4](=[O:5])[H:8])([H:9])([H:10])[H:11]>>[C:1]([O:5]/[C:4](=[N:2]\[N:3]([H:6])[H:7])[H:8])([H:9])([H:10])[H:11],68.95911250003223
MR_326741_0,[N:1]1([H:9])[C:4]([C:3](=[O:5])[H:12])([H:13])[N:6]1[N:7]([N:2]([H:10])[H:11])[H:8]>>[N:1](/[C:4](=[C:3](\[O:5][H:8])[H:12])[H:13])(/[N:6]=[N:7]/[N:2]([H:10])[H:11])[H:9],5.720917500002116
MR_128728_1,[C:1]([C:4]([H:21])([H:22])[H:23])([C:7]([C:3]([H:18])([H:19])[H:20])(/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:11])/[C:8](=[N:5]/[H:10])[H:12])([H:13])[H:14]>>[C:1]([C:4]([H:21])([H:22])[H:23])(/[C:7]([C:3]([H:18])([H:19])[H:20])=[C:8](/[N:5](/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:11])[H:10])[H:12])([H:13])[H:14],60.61273499998862
MR_5949_1,[C:1]1([N:7]([H:12])[H:13])([H:9])[C:2]([H:14])([H:15])[C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[C:5]1([N:6]([H:10])[H:11])[O:8][H:17]>>[C:1]([C:2]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([C:5]([N:6]([H:10])[H:11])=[O:8])([N:7]([H:12])[H:13])[H:9],58.83502750001824
MR_17823_0,[C:1]([C:2](=[C:4]([H:10])[H:11])[H:7])(=[C:3]([H:8])[H:9])[O:5][H:6]>>[C:1]1([O:5][H:6])=[C:2]([H:7])[C:4]([H:10])([H:11])[C:3]1([H:8])[H:9],46.666547500011646
MR_521690_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[O:7][N:5]([C:6]([O:8][H:10])=[O:9])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[N:5]([O:7][C:6]([O:8][H:10])=[O:9])[H:11],73.02656749999997
MR_212710_1,[C:1]([C:4]1=[C:5]([H:11])[C:2]2([C:3](=[C:6]([H:15])[H:16])[O:8][H:10])[O:7][N:9]21)([H:12])([H:13])[H:14]>>[C:1]([c:4]1[c:5]([H:11])[c:2]([C:3](=[C:6]([H:15])[H:16])[O:8][H:10])[o:7][n:9]1)([H:12])([H:13])[H:14],16.51140750004572
MR_370540_2,[C:1]1([C:4]([H:17])([H:18])[H:19])([N:7]([H:11])[H:12])[C:2]([H:13])([H:14])[C:3]([O:8][H:10])([H:15])[C:6]1([C:5]([H:20])([H:21])[H:22])[O:9][H:16]>>[C:1]([C:2]([C:3]([O:8][H:10])([H:15])[H:16])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])([C:6]([C:5]([H:20])([H:21])[H:22])=[O:9])[N:7]([H:11])[H:12],71.80858999997184
MR_614421_0,[C:1]([C:4]1=[C:3]([N:5]([H:9])[H:10])[O:6][C:2]([N:8][H:11])[O:7]1)([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([C:3]([N:5]([H:9])[H:10])=[O:6])/[C:2](=[N:8]/[H:11])[O:7]1)([H:12])([H:13])[H:14],53.97127499995648
MR_67098_1,[C:1]([C:3]([C:2]12[C:4]([H:9])([C:6]([H:11])=[C:5]1[H:10])[O:7]2)=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:3]([c:2]1[c:5]([H:10])[c:6]([H:11])[c:4]([H:9])[o:7]1)=[O:8])([H:12])([H:13])[H:14],31.30032750001732
MR_571476_0,[C:1]1([N:4]([H:7])[H:8])([C:5](=[O:6])[H:9])[C:2]([H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([C:5](=[O:6])[H:9])([H:10])[H:11])(=[C:3]([H:12])[H:13])[N:4]([H:7])[H:8],63.78913999999455
MR_50445_0,[C:1](/[N:6]=[C:3](/[N:5]=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:8])[H:7])([H:9])([H:10])[H:11]>>[C:1]([N:6]1[C:3]([H:7])=[N:5][C:4]1([C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11],37.40213749998517
MR_394694_0,[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])([O:7][H:11])[O:8][H:10])(=[O:6])[H:12]>>[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])=[O:8])([O:6][H:10])([O:7][H:11])[H:12],25.993559999968312
